US04975445
Step B: Preparation of 1-(3-Pyridinyl)-4-[4-(2-pyridinyl)-1-piperazinyl]cyclohexanol (mixture of cis/trans)
A solution of 4.74 g (30 mmol) of 3-bromopyridine in 100 ml of diethyl ether is cooled to --78° C. under a nitrogen atmosphere. n-Butyllithium (18.75 ml, 30 mmol) is added dropwise. The resulting suspension is stirred for 30 minutes. To this solution is added a solution of 5.19 g of 4-[4-(2-pyridinyl)-1-piperazinyl]cyclohexanone in 175 ml of tetrahydrofuran dropwise. The cold bath is removed and the mixture is allowed to warm to room temperature and quenched with 50 ml of saturated ammonium chloride solution. The tetrahydrofuran is evaporated under vacuum and the residue is partitioned into water/dichloromethane. The organic phase is separated and dried over magnesium sulfate and evaporated in vacuo to give the title compound as a mixture of cis and trans isomers.

reactant | 3-bromopyridine | 30 mmol, 4.74 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-Butyllithium | 30 mmol, 18.75 ml | C(CCC)[Li]
reactant | 4-[4-(2-pyridinyl)-1-piperazinyl]cyclohexanone | 5.19 g | N1=C(C=CC=C1)N1CCN(CC1)C1CCC(CC1)=O | C15H21N3O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
product | 1-(3-Pyridinyl)-4-[4-(2-pyridinyl)-1-piperazinyl]cyclohexanol | N1=CC(=CC=C1)C1(CCC(CC1)N1CCN(CC1)C1=NC=CC=C1)O | C20H26N4O
